US09446348B2
1-(2,3-Dihydroxypropyl)-2,3-dimethylimidazolium Chloride (RTIL 2)
1,2-Dimethylimidazole (9.61 g, 100 mmol) and 3-chloro-1,2-propanediol (11.05 g, 100.0 mmol) were stirred in a 130° C. oil bath for 48 h, after which the flask was placed under vacuum and stirring continued at 130° C. for another 48 h. The product was then stirred in refluxing ether for 24 h and filtered to afford a brown solid (20.29 g, 100%). 1H NMR: δH ppm (400 MHz; DMSO-d6) 2.60 (s, 3H) 3.20-3.33 (m, 1H) 3.36-3.49 (m, 2H) 3.78 (s, 3H) 4.08 (dd, J=14.11, 7.88 Hz, 1H) 4.27 (dd, J=14.11, 3.11 Hz, 1H) 5.14 (t, J=5.50 Hz, 1H) 5.50 (d, J=5.68 Hz, 1H) 7.63 (d, J=2.01 Hz, 1H) 7.66 (d, J=2.20 Hz, 1H).

reactant | 1,2-Dimethylimidazole | 100 mmol, 9.61 g | CN1C(=NC=C1)C | C5H8N2
reactant | 3-chloro-1,2-propanediol | 100.0 mmol, 11.05 g | ClCC(CO)O | C3H7ClO2
solvent | ether | CCOCC | C4H10O
product | 1-(2,3-Dihydroxypropyl)-2,3-dimethylimidazolium Chloride | 20.29 g, 100% | [Cl-].OC(C[N+]1=C(N(C=C1)C)C)CO | InChI=1S/C8H15N2O2.ClH/c1-7-9(2)3-4-10(7)5-8(12)6-11;/h3-4,8,11-12H,5-6H2,1-2H3;1H/q+1;/p-1
